US04719054
Analogously to Example 1(b), 2.8 g of 3-methoxy-18-methyl-15α-trimethylacetoxy-3,5-estradien-17-one is reacted with lithium acetylide and worked up. Recrystallization from acetone/hexane yields 1.6 g of 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one, melting point 197° C.

reactant | 3-methoxy-18-methyl-15α-trimethylacetoxy-3,5-estradien-17-one | 2.8 g | COC1=CC2=CC[C@H]3[C@@H]4[C@H](CC([C@@]4(CC)CC[C@@H]3[C@H]2CC1)=O)OC(C(C)(C)C)=O | C25H36O4
reactant | lithium acetylide | [C-]#[C-].[Li+].[Li+]
product | 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one | 1.6 g | C(#C)[C@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O | C21H26O2
